US09428509B2
4-((4-Cyclobutoxy-5-(4-(methylcarbamoyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-(1-methylazetidin-3-yl)benzamide
To a degassed mixture of 4-(2-chloro-4-cyclobutoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide (1 equiv), 4-amino-3-methoxy-N-(1-methylazetidin-3-yl)benzamide (1.2 equiv) and cesium carbonate (3 equiv) in 1,4-dioxane (0.1 M) was added palladium acetate (0.1 equiv) and 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl (0.2 equiv). The reaction was stirred at 100° C. for 2 h. After the reaction was completed, the reaction mixture was cooled to room temperature and concentrated. The residue was purified by silica gel chromatography (10% MeOH in DCM) to afford the desired product (73% yield) as a yellow solid. MS (ESI) m/z 686.4 [M+H]+.

reactant | 4-(2-chloro-4-cyclobutoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)OC2CCC2 | C24H31ClN4O3Si
reactant | 4-amino-3-methoxy-N-(1-methylazetidin-3-yl)benzamide | 1.2 equiv | NC1=C(C=C(C(=O)NC2CN(C2)C)C=C1)OC | C12H17N3O2
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl | 0.2 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | 1,4-dioxane | 0.1 M | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-((4-Cyclobutoxy-5-(4-(methylcarbamoyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-(1-methylazetidin-3-yl)benzamide | 73% yield | C1(CCC1)OC=1C2=C(N=C(N1)NC1=C(C=C(C(=O)NC3CN(C3)C)C=C1)OC)N(C=C2C2=CC=C(C=C2)C(NC)=O)COCC[Si](C)(C)C | C36H47N7O5Si
